US07026352B1
(8E,12E,14E)-7-Acetoxy-3,6,21-tri(1-ethoxyethoxy)-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide
Pyridinium p-toluenesulfonate (9 mg, 35.4 μmol) was added to a solution of (8E,12E,14E)-7-acetoxy-3,6,21-trihydroxy-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide (200 mg, 0.354 mmol) in dichloromethane (10 mL) and ethyl vinyl ether (521 mg, 7.08 mmol) at room temperature, followed by stirring at the same temperature overnight. Ethyl Acetate and water were added to the reaction solution, and the mixture was extracted with ethyl acetate, dried over anhydrous magnesium sulfate, filtered and then evaporated. The resulting residue was purified by silica gel column chromatography (Kanto silica gel 60N, 40 to 50 μm; ethyl acetate-hexane=1:4, 1:3 and 1:1, successively) to obtain the title compound (250 mg, 94%) as a colorless oil.

reactant | Pyridinium p-toluenesulfonate | 35.4 μmol, 9 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | (8E,12E,14E)-7-acetoxy-3,6,21-trihydroxy-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide | 0.354 mmol, 200 mg | C(C)(=O)OC\1C(CCC(CC(=O)OC(C(/C=C1)C)\C(=C\C=C\C(CC1C(C(C(CC)O)C)O1)C)\C)O)(C)O | C30H48O8
reactant | ethyl vinyl ether | 7.08 mmol, 521 mg | C(=C)OCC | C4H8O
reactant | Ethyl Acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (8E,12E,14E)-7-Acetoxy-3,6,21-tri(1-ethoxyethoxy)-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide | 250 mg, 94% | C(C)(=O)OC\1C(CCC(CC(=O)OC(C(/C=C1)C)\C(=C\C=C\C(CC1C(C(C(CC)OC(C)OCC)C)O1)C)\C)OC(C)OCC)(C)OC(C)OCC | C42H72O11
